datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:16])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:10],166.398
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:14])[H:15])([C:4]([O:5][O:6][H:13])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],89.956
[C:0](=[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:26])[H:27])[H:25])=[C:10]([C:11]([H:28])([H:29])[H:30])[C:12]([H:31])([H:32])[H:33])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[C:5]([H:21])([H:22])[C:6]([H:23])([H:24])[C:7]([C:8](=[C:9]([H:26])[H:27])[H:25])[C:10]1([C:11]([H:28])([H:29])[H:30])[C:12]([H:31])([H:32])[H:33])[H:15])([H:13])[H:14],66.3582
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:21]([C:20](=[C:19]([H:23])[H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26],103.261
[C:4]([H:5])([H:6])[H:7].[S:0]([S:1][H:3])[H:2]>>[H:2].[S:0]([S:1][H:3])[C:4]([H:5])([H:6])[H:7],69.4544
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])=[C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])[H:21])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])([H:13])[C:2]([H:14])([H:15])[C:3]([H:16])([H:17])[C:4]([C:5](=[C:6]([H:19])[H:20])[H:18])[C:7]1([C:8](=[C:9]([H:23])[H:24])[H:22])[H:21],30.8779
[C:0]([C:1]([O:2][H:9])([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:10])[H:8])([H:6])[H:7].[O:17][O:18]>>[C:0]([C:1]([O:2][H:9])([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:10])[H:8])([H:6])([H:7])[O:17][O:18],0.0
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8]([C:9]([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:9]([C:8]([H:16])([H:17])[H:18])([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])[H:6],34.3925
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[S:9]([c:10]1[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21])[H:16]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:16])([H:4])([H:5])[H:6].[S:9][c:10]1[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21],33.0536
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6](=[C:7]([H:15])[H:16])[H:14])[H:13])([H:11])[H:12])[H:10])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]1([C:6](=[C:7]([H:15])[H:16])[H:14])[H:13])[H:8],166.23
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])=[C:8]([C:9](=[C:10]([H:26])[H:27])[H:25])[H:24])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([C:7]([H:21])([H:22])[H:23])[C:8]1([C:9](=[C:10]([H:26])[H:27])[H:25])[H:24])[H:13])([H:11])[H:12],70.6678
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:12]>>[C:0](=[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])[H:5].[H:6][H:12],24.355064
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21])[H:10],19.1209
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([H:4])([H:5])[H:6])[C:8]([C:7]([H:16])([H:17])[H:18])([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])[H:3],48.2415
[C:0]1([H:16])=[C:1]([H:17])[c:2]2[c:3]([H:18])[c:4]3[c:5]([H:19])[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]3[c:10]3[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[c:15]23>>[C:0]1([H:16])=[C:1]([H:17])[c:2]2[c:3]([H:18])[c:4]3[c:5]([H:19])[c:6][c:7]([H:21])[c:8]([H:22])[c:9]3[c:10]3[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[c:15]23.[H:20],619.549984
